US06706763B1
5-[2-Carbamoyl-2-(methylsulfonyl)ethyl]-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide
To 274 mg of 5-[2-carbamoyl-2-(methylsulfinyl)ethyl]-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide were added 100 ml of methylene chloride and 155 mg of mCPBA, and the mixture was stirred for 3 hours. Saturated aqueous solution of sodium bicarbonate was added to the reaction mixture, and the insolubles were filtered off. The organic layer was washed with saturated aqueous solution of sodium bicarbonate and saturated brine in sequence and dried over anhydrous sodium sulfate. Solvent was distilled off under reduced pressure, and the residue obtained was purified by means of column chromatography (silica gel, methylene chloride:methanol=50:1 to 20:1) to obtain 201 mg of aimed product as colorless crystals.

reactant | 5-[2-carbamoyl-2-(methylsulfinyl)ethyl]-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide | 274 mg | C(N)(=O)C(CC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC)S(=O)C | C20H21F3N2O4S
reactant | mCPBA | 155 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-[2-Carbamoyl-2-(methylsulfonyl)ethyl]-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide | 201 mg | C(N)(=O)C(CC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC)S(=O)(=O)C | C20H21F3N2O5S
